US07241785B2
A mixture of ethyl 3-hydroxy-1-methyl-1H-pyrazole-4-carboxylate (25.50 g), benzyl bromide (17.8 ml), potassium carbonate (31.10 g) and N,N-dimethylformamide (250 ml) was stirred overnight at 50° C. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dilute hydrochloric acid, washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-benzyloxy-1-methyl-1H-pyrazole-4-carboxylate (31.90 g, yield 82%) was obtained as a colorless crystal from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio) and recrystallized from ethyl acetate-hexane. melting point: 66–67° C.

reactant | ethyl 3-hydroxy-1-methyl-1H-pyrazole-4-carboxylate | 25.50 g | OC1=NN(C=C1C(=O)OCC)C | C7H10N2O3
reactant | benzyl bromide | 17.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 31.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-benzyloxy-1-methyl-1H-pyrazole-4-carboxylate | 31.90 g, yield 82% | C(C1=CC=CC=C1)OC1=NN(C=C1C(=O)OCC)C | C14H16N2O3
